US07745438B2
(2R,5S)-2-(2,2-Dimethylpropoxy)-5-hydroxymethylmorpholine-4-carboxylic acid tert-butyl ester
Stir (2R,5S)-5-benzyloxymethyl-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester (7.05 g, 17.92 mmol) and 20% palladium hydroxide on carbon in methanol (150 mL) under 1 atmosphere of hydrogen gas at room temperature for 12 hours. Filter and concentrate to give the desired compound as a thick oil which is used directly in the next step without further purification (5.10 g).

reactant | (2R,5S)-5-benzyloxymethyl-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 17.92 mmol, 7.05 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1COCC1=CC=CC=C1)OCC(C)(C)C | C22H35NO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | (2R,5S)-2-(2,2-Dimethylpropoxy)-5-hydroxymethylmorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1CO)OCC(C)(C)C | C15H29NO5
